US09169259B2
To a solution of 6-(3-(aminomethyl)phenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (50 mg, 1.52 mmol), tert-butyl 4-oxopiperidine-1-carboxylate (38 mg, 0.188 mmol) and NaBH(OAc)3 (80 mg, 0.375 mmol) in dichloromethane (5 mL) was added HOAc (12 mg). The mixture was stirred at room temperature for 3 h. The solvent was concentrated in vacuo. The residue was purified by chromatography (silica, EtOAc) to give tert-butyl 4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzylamino)piperidine-1-carboxylate (35 mg, 48%) as a yellow oil. LC/MS: 583.3 [M+H]+, tR=1.52 min.

reactant | 6-(3-(aminomethyl)phenyl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 1.52 mmol, 50 mg | NCC=1C=C(C=CC1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C23H25N7
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 0.188 mmol, 38 mg | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | NaBH(OAc)3 | 0.375 mmol, 80 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HOAc | 12 mg | CC(=O)O | C2H4O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzylamino)piperidine-1-carboxylate | 35 mg, 48% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(CNC3CCN(CC3)C(=O)OC(C)(C)C)C=CC1)C=CN2 | C33H42N8O2
